US09334278B2
To a stirred solution of tert-butyl 2-methyl-6,7-dihydro-2H-pyrazolo[4,3-b]pyridine-4(5H)-carboxylate (56 mg, 236 mol) in CH2Cl2 (4.00 mL) was added TFA (740 mg, 500 μL, 6.49 mmol) at room temperature. After 18 h, the reaction mixture was concentrated in vacuo and the residue obtained was purified by chromatography (40 g column, 50 m silica-gel from Analogix, 0 to 5% 9:1 methanol:ammonium hydroxide in CH2Cl2, 20 min) to give 2-methyl-4,5,6,7-tetrahydro-2H-pyrazolo[4,3-b]pyridine (25 mg, 77%). 1H NMR (CHLOROFORM-d) δ: 6.81 (s, 1H), 3.75 (s, 3H), 3.11-3.18 (m, 2H), 3.04 (s, 1H), 2.73 (t, J=6.4 Hz, 2H), 1.86-2.00 (m, 2H).

reactant | tert-butyl 2-methyl-6,7-dihydro-2H-pyrazolo[4,3-b]pyridine-4(5H)-carboxylate | 236 mol, 56 mg | CN1N=C2C(N(CCC2)C(=O)OC(C)(C)C)=C1 | C12H19N3O2
reactant | TFA | 6.49 mmol, 500 μL, 740 mg | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 4.00 mL | C(Cl)Cl | CH2Cl2
product | 2-methyl-4,5,6,7-tetrahydro-2H-pyrazolo[4,3-b]pyridine | 25 mg, 77% | CN1N=C2C(NCCC2)=C1 | C7H11N3
